US05668278
3. 2-(2,5-Dimethyl-1-pyrrolyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine
16 g (92 mmole) diethyl azodicarboxylate was added dropwise to 19.7 g (84 mmole) 3(5)-4-hydroxybutyl)-5(3)-(2,5-dimethyl-1-pyrrolyl)pyrazole and 22.1 g (84 mmole) triphenylphosphine in 300 ml tetrahydrofuran under ice-cooling. The mixture was stirred at room temperature for 4 hours. Then the reaction mixture was concentrated and the residue purified by silica gel column chromatography (hexane/ethyl acetate).

reactant | diethyl azodicarboxylate | 92 mmole, 16 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (2,5-dimethyl-1-pyrrolyl)pyrazole | CC=1N(C(=CC1)C)C1=NNC=C1 | C9H11N3
reactant | triphenylphosphine | 84 mmole, 22.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 2-(2,5-Dimethyl-1-pyrrolyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridine | CC=1N(C(=CC1)C)C1=NN2C(CCCC2)=C1 | C13H17N3
